US08357694B2
N-(4-(2-(4-methylpiperazin-1-yl)ethyl)phenyl)-6-(2-(trifluoromethyl)phenyl)-5,6 dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-Methylpiperazine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=157-158° C. 1H NMR 400 MHz (DMSO-d6) δ 9.55 (s, 1 H); 8.38-8.34 (m, 2 H), 7.82-7.49 (m, 3 H), 7.58 (t, 1 H), 7.51-7.40 (m, 3 H), 7.27 (d, J=8.4 Hz, 1 H), 7.18-7.15 (m, 2 H), 6.77 (d, J=7.6 Hz, 1 H), 4.64 (t, J=7.6 Hz, 1 H), 3.35 (bs, 2 H), 3.17-3.08 (m, 3 H), 2.69-2.65 (m, 2 H), 2.50-2.31 (m, 7 H), 2.15 (s, 3 H). LCMS 544 (M+H).

reactant | 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)C(F)(F)F)C=CC=C3 | C28H24F3N3O3S
reactant | N-Methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(4-(2-(4-methylpiperazin-1-yl)ethyl)phenyl)-6-(2-(trifluoromethyl)phenyl)-5,6 dihydrobenzo[h]quinazolin-2-amine | CN1CCN(CC1)CCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)C(F)(F)F)C=CC=C3 | C32H32F3N5
